US08486952B2
A solution of 2,4-dichloro-8-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline (115 mg, 0.387 mmol) and excess dimethylamine (1.935 mL, 3.87 mmol) in MeOH (1 mL) was stirred at room temperature for 1 h. The solvent was removed in vacuum to afford 2-chloro-8-(4-fluorophenyl)-N,N-dimethyl-5,6,7,8-tetrahydroquinazolin-4-amine (118 mg, 0.386 mmol, 100% yield). LC-MS (M+H)+=306.2.

reactant | 2,4-dichloro-8-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline | 0.387 mmol, 115 mg | ClC1=NC=2C(CCCC2C(=N1)Cl)C1=CC=C(C=C1)F | C14H11Cl2FN2
reactant | dimethylamine | 3.87 mmol, 1.935 mL | CNC | C2H7N
solvent | MeOH | 1 mL | CO | CH4O
product | 2-chloro-8-(4-fluorophenyl)-N,N-dimethyl-5,6,7,8-tetrahydroquinazolin-4-amine | 0.386 mmol, 118 mg, 100% yield | ClC1=NC=2C(CCCC2C(=N1)N(C)C)C1=CC=C(C=C1)F | C16H17ClFN3
